US08703808B2
To a solution of 6-methoxygramine (1.0 g, 4.9 mmol, 1.0 eq.) in a mixture of anhydrous dichloromethane (16 mL) and toluene (30 mL) was added, under an argon atmosphere, methyl iodide (610 μL, 9.8 mmol, 2.0 eq.). The mixture was stirred at room temperature for 16 hours and then, concentrated under reduced pressure. To the residue taken up in anhydrous THF (40 mL) were added, under an argon atmosphere, TMSCN (920 μL, 7.3 mmol, 1.5 eq.) and TBAF (14.7 mL, 1M, 14.7 mmol, 3.0 eq.). The mixture was stirred at room temperature for 4 hours and then, concentrated under reduced pressure. The crude was taken up in ethyl acetate and the organic layer was washed with aqueous bicarbonate solution and then dried over MgSO4. The solvent was removed under reduced pressure, and the residue purified by silica gel pad filtration (eluent: EtOAc) to afford (6-methoxy-1H-indol-3-yl)-acetonitrile as a beige powder (0.87 g, 95%). mp: 100° C.

reactant | 6-methoxygramine | 4.9 mmol, 1.0 g, 1.0 eq. | CN(C)CC1=CNC2=C1C=CC(=C2)OC | C12H16N2O
reactant | methyl iodide | 9.8 mmol, 610 μL, 2.0 eq. | CI | CH3I
reactant | TMSCN | 7.3 mmol, 920 μL, 1.5 eq. | [Si](C)(C)(C)C#N | C4H9NSi
reactant | TBAF | 14.7 mmol, 1M, 14.7 mL, 3.0 eq. | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 16 mL | ClCCl | CH2Cl2
product | (6-methoxy-1H-indol-3-yl)-acetonitrile | 0.87 g, 95% | COC1=CC=C2C(=CNC2=C1)CC#N | C11H10N2O
